US05324747
A mixture of 1.92 g (4.45 mmol) of N,N'-(5-amino-1,3-phenylene)bisdecanamide, 10.6 ml (0.061 mol) of benzyl bromoacetate, 2.4 g (11.1 mmol) of 1,8-bis(dimethylamino)-naphthalene and 0.19 g (1.25 mmol) of sodium iodide in 50 ml of acetonitrile and 15 ml of DMF was stirred and refluxed under an argon atmosphere for 36 hours. The solvents were removed at reduced pressure and the residue was dissolved in ethyl acetate. The extract was washed with 0.05N HCl, with NaHCO3 solution, dried and concentrated to a brown solid. Purification by HPLC using 25% ethyl acetate-hexane gave 0.9 g which was recrystallized from acetone-hexane to give 0.064 g (20% yield, mp 127°-129°) of N-[3,5-bis[(1-oxodecyl)amino]phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester.

reactant | N,N'-(5-amino-1,3-phenylene)bisdecanamide | 4.45 mmol, 1.92 g | NC=1C=C(C=C(C1)NC(CCCCCCCCC)=O)NC(CCCCCCCCC)=O | C26H45N3O2
reactant | benzyl bromoacetate | 0.061 mol, 10.6 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis(dimethylamino)-naphthalene | 11.1 mmol, 2.4 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium iodide | 1.25 mmol, 0.19 g | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-[3,5-bis[(1-oxodecyl)amino]phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester | 0.064 g, 20% yield | C1(=CC=CC=C1)COC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)NC(CCCCCCCCC)=O)NC(CCCCCCCCC)=O)=O | C44H61N3O6
